US06835745B2
4-Methoxy-2-trifluoromethylphenylboronic Acid
A solution of 4-bromo-3-trifluoromethylanisole (13 g, 50 mmol) in dry THF (110 mL) was treated with butyllithium solution (2.5 M in hexane, 24 mL, 60 mmol) during ca. 5 min at −78° C. under nitrogen. After 15 min, the solution was treated with triisopropyl borate (23 mL, 100 mmol) during ca. 5 min at −78° C. After a further 30 min, the cooling bath was removed and the reaction solution was warmed to 23° C. and left for 3.5 h. At this time, the resulting opaque mixture was concentrated in vacuo and the residue was treated with 1 N aqueous hydrogen chloride (110 mL, 110 mmol) and extracted with ethyl acetate (3×75 mL). The combined extracts were washed with water (2×100 mL) and brine (100 mL), dried (Na2SO4), and concentrated in vacuo to give the crude product as a tacky yellow solid (11 g) which was triturated overnight with hexane (100 mL). Vacuum filtration gave the title compound (7.9 g, 72%) as a white solid which was pure enough for further use.

reactant | 4-bromo-3-trifluoromethylanisole | 50 mmol, 13 g | BrC1=C(C=C(C=C1)OC)C(F)(F)F | C8H6BrF3O
reactant | butyllithium | 60 mmol, 2.5 M, 24 mL | C(CCC)[Li]
reactant | triisopropyl borate | 100 mmol, 23 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrogen chloride | 110 mmol, 1 N, 110 mL | Cl | ClH
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-2-trifluoromethylphenylboronic Acid | 7.9 g, 72% | COC1=CC(=C(C=C1)B(O)O)C(F)(F)F | C8H8BF3O3
